US05559106
1-(2-Carboxyethyl)-7-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one
A suspension of 1-(2-ethoxycarbonylethyl)-7-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one (177 mg, 0.5 mmol) in 6 ml of 1N sodium hydroxide was stirred at room temperature for 150 min. The solution was cooled in an ice bath and acidified with 4M hydrochloric acid to pH 1. The precipitate was isolated by filtration, washed with water, ethanol and ether to give 131 mg (80%) of the title compound. M.p. 333° C. (DSC).

reactant | 1-(2-ethoxycarbonylethyl)-7-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one | 0.5 mmol, 177 mg | C(C)OC(=O)CCC1=NN=C2N1C1=CC=C(C=C1NC2=O)C(F)(F)F | C15H13F3N4O3
reactant | hydrochloric acid | 4M | Cl | ClH
solvent | sodium hydroxide | 1N, 6 ml | [OH-].[Na+]
product | 1-(2-Carboxyethyl)-7-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one | 131 mg, 80% | C(=O)(O)CCC1=NN=C2N1C1=CC=C(C=C1NC2=O)C(F)(F)F | C13H9F3N4O3
